US04478967
2-Nitrobenzyl octadecanoate (Compound 4)
In 100 ml benzene were mixed 2-nitrobenzyl alcohol (7.65 g, 0.05 mol) and triethylamine (5.06 g, 0.05 mol). To the solution octadecanoyl chloride (15.14 g, 0.05 mol) was added dropwise with stirring. The mixture was stirred an additional one hour and the precipitated triethyl amine hydrochloride was removed by filtration. The filtrate was evaporated to dryness and the residue crystallized from ethanol (yield 13.0 g, m.p. 60°-61° C.), The tetradecanoate (m.p. 46° C.)(Compound 5), hexadecanoate (m.p. 54° C.)(Compound 6), heptadecanoate (m.p. 48° C.)(Compound 7), and 9-octadecenoate (Compound 8) esters of 2-nitrobenzyl alcohol were similarly prepared using corresponding acyl chlorides in place of octadecanoyl chloride.

reactant | 2-nitrobenzyl alcohol | 0.05 mol, 7.65 g | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | triethylamine | 0.05 mol, 5.06 g | C(C)N(CC)CC | C6H15N
reactant | octadecanoyl chloride | 0.05 mol, 15.14 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-Nitrobenzyl octadecanoate | C(CCCCCCCCCCCCCCCCC)(=O)OCC1=C(C=CC=C1)[N+](=O)[O-] | C25H41NO4
